US07091222B2
4-[1-(2,2-Difluoro-ethyl)-2-methyl-1H-imidazol-4-ylethynyl]-2-methyl-pyridine
The title compound, MS: m/e=262.1 (M+H+), was prepared in accordance with the general method of example 1 from 2-methyl-4-(2-methyl-1H-imidazol-4-ylethynyl)-pyridine and 2-bromo-1,1-difluoro ethane.

reactant | 2-methyl-4-(2-methyl-1H-imidazol-4-ylethynyl)-pyridine | CC1=NC=CC(=C1)C#CC=1N=C(NC1)C | C12H11N3
reactant | 2-bromo-1,1-difluoro ethane | BrCC(F)F | C2H3BrF2
product | 4-[1-(2,2-Difluoro-ethyl)-2-methyl-1H-imidazol-4-ylethynyl]-2-methyl-pyridine | FC(CN1C(=NC(=C1)C#CC1=CC(=NC=C1)C)C)F | C14H13F2N3
